US05591762
4'-[[2-n-Propyl-4-methyl-6-(2-oxo-piperidin-1-yl)-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared from 4'-[[2-n-propyl-4-methyl-6-(2-oxo-piperidin-1-yl)-benzimidazol-1-yl]-methyl]-2-(2-triphenylmethyl-tetrazol-5-yl)biphenyl by cleaving the triphenylmethyl group with methanolic hydrochloric acid.

reactant | 4'-[[2-n-propyl-4-methyl-6-(2-oxo-piperidin-1-yl)-benzimidazol-1-yl]-methyl]-2-(2-triphenylmethyl-tetrazol-5-yl)biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C(C=C2C)N2C(CCCC2)=O | C49H45N7O
reactant | hydrochloric acid | Cl | ClH
product | 4'-[[2-n-Propyl-4-methyl-6-(2-oxo-piperidin-1-yl)-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)N2C(CCCC2)=O | C30H31N7O
